US06573273B1
3-Chloroperoxybenzoic acid (3.71 g of ˜60%, 13.48 mmol) was added in small portions over a period of 20 minutes to a solution of tert-butyl 3-(1H-imidazo[4,5-c]quinolin-1-yl)propylcarbamate (4.0 g, 12.25 mmol) in chloroform (175 mL). After 1 hour the reaction was quenched with aqueous I% sodium carbonate solution. The layers were separated. The organic layer was washed with aqueous 1% sodium carbonate solution (3×100 mL). The aqueous layer was extracted with chloroform (2×100 mL). The organic layers were combined and concentrated under reduced pressure to provide crude tert-butyl 3-(5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)propylcarbamate.

reactant | 3-Chloroperoxybenzoic acid | 13.48 mmol, 3.71 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | tert-butyl 3-(1H-imidazo[4,5-c]quinolin-1-yl)propylcarbamate | 12.25 mmol, 4.0 g | N1(C=NC=2C=NC=3C=CC=CC3C21)CCCNC(OC(C)(C)C)=O | C18H22N4O2
solvent | chloroform | 175 mL | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl 3-(5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)propylcarbamate | [O-][N+]1=CC2=C(C=3C=CC=CC13)N(C=N2)CCCNC(OC(C)(C)C)=O | C18H22N4O3
